US06875880B2
A 100-ml four-necked flask equipped with a Dimroth condenser, stirrer and thermometer was thoroughly purged with nitrogen and then charged with 60 ml of toluene, 0.075 g (5.0×10−4 mol) of trifluoromethanesulfonic acid, 0.076 g (5.0×10−4 mol) of 1,8-diazabicyclo[5.4.0]-7-undecene, and 5.1 g (5.0×10−2 mol) of 1-hexanol, which were stirred. Further, 4.15 g (2.5×10−2 mol) of 1,1,3,3-tetramethyldisiloxane-1,3-diol was admitted into the reactor, which was evacuated to a reduced pressure of 4.7 kPa and heated at 35° C. The reactor was kept at the temperature for two hours and resumed atmospheric pressure. Composition analysis by gas chromatography revealed that 1,1,3,3-tetramethyldisiloxane-1,3-diol had completely reacted, and 1,3-dihexyloxy-1,1,3,3-tetramethyldisiloxane was produced at a selectivity of 79.1%. By-products included 1,5-dihexyloxy-1,1,3,3,5,5-hexamethyltrisiloxane and 1,7-dihexyloxy-1,1,3,3,5,5,7,7-octamethyltetrasiloxane.

reactant | trifluoromethanesulfonic acid | 5.0×10−4 mol, 0.075 g | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 5.0×10−4 mol, 0.076 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 1-hexanol | 5.0×10−2 mol, 5.1 g | C(CCCCC)O | C6H14O
reactant | 1,1,3,3-tetramethyldisiloxane-1,3-diol | 2.5×10−2 mol, 4.15 g | C[Si](O[Si](O)(C)C)(O)C | C4H14O3Si2
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | 1,3-dihexyloxy-1,1,3,3-tetramethyldisiloxane | C(CCCCC)O[Si](O[Si](C)(C)OCCCCCC)(C)C | C16H38O3Si2
